US08461153B2
Methyl 2,4-diethylbenzoate
To a mixture of Fe(acac)3 (0.34 g, 0.96 mmol), methyl 2,4-dichlorobenzoate (4.0 g, 19.6 mmol), and N-methyl-2-pyrrolidinone (8 mL) in THF (100 mL) at −20° C. under nitrogen was added a tetrahydrofuran (THF) solution (1.0 M) of ethylmagnesium bromide (40.0 mL, 40.0 mmol) over a period of −5 min. The resulting mixture was stirred while gradually warming to ambient temperature. Stirring was continued for an additional 17 h. The reaction mixture was partitioned between water and dichloromethane. The organic layer was separated, washed with brine, dried (MgSO4), and pumped to dryness under reduced pressure. The brown residue was purified by column chromatography (SiO2, 20% EtOAc/heptane) to give 1.2 g of the desired product as a clear oil (yield of 32%), along with 1.1 g of methyl 4-ethylbenzoate. 1H NMR (300 MHz, DMSO-d6) δ 1.15 (t, 3H), 1.20 (t, 3H), 2.66 (q, 2H), 2.92 (q, 2H), 3.82 (s, 3H), 7.15 (d, 1H), 7.23 (s, 1H), 7.76 (d, 1H).

reactant | methyl 2,4-dichlorobenzoate | 19.6 mmol, 4.0 g | ClC1=C(C(=O)OC)C=CC(=C1)Cl | C8H6Cl2O2
reactant | N-methyl-2-pyrrolidinone | 8 mL | CN1C(CCC1)=O | C5H9NO
reactant | ethylmagnesium bromide | 40.0 mmol, 40.0 mL | C(C)[Mg]Br
solvent | THF | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.0 M | O1CCCC1 | C4H8O
product | Methyl 2,4-diethylbenzoate | 1.2 g, yield of 32% | C(C)C1=C(C(=O)OC)C=CC(=C1)CC | C12H16O2
